US07084314B1
Step two: Preparation of decahydro-2-trifluoromethyl-1,4-methanonaphthalene
A 400 ml autoclave is charged with 177 g of the thus purified octahydro-2-trifluormethyl-1,4-methanonaphthalene, methanol (100 ml, Burdick & Jackson, HPLC grade), and palladium on activated carbon (1.5 g containing 10% Pd, Alfa products, powder). The autoclave is closed and sealed, then it is shaken under 50 psig hydrogen pressure for 20 minutes at room temperature. The hydrogen pressure is increased to 200 psig for 10 minutes at room temperature followed by 600 psig at 70° C. for 45 minutes. The decahydro-2-trifluormethyl-1,4-methanonaphthalene product is purified by distillation at reduced pressure. The crude product is treated with sulfuric acid as described in Example 2.

reactant | octahydro-2-trifluormethyl-1,4-methanonaphthalene | FC(C1C2C3=CCCCC3C(C1)C2)(F)F | C12H15F3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 1.5 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | decahydro-2-trifluoromethyl-1,4-methanonaphthalene | FC(C1C2C3CCCCC3C(C1)C2)(F)F | C12H17F3
